US09193689B2
To a stirred solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (400 mg, 1.98 mmol) in DMF (2 mL) was added TBDPS chloride (0.52 mL, 1.98 mmol) and imidazole (297 mg, 4.47 mmol) and the reaction stirred at RT for 16 h afterwhich time the reaction mixture was diluted with brine (10 mL), washed with CH2Cl2 (3×25 mL) and the organics combined and dried through a phase separation cartridge and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with EtOAc and increasing the polarity to 30% EtOAc/isohexane to obtain 4-(tert-butyl-diphenyl-silanyloxy)-piperidine-1-carboxylic acid tert-butyl ester as a colourless oil (545 mg, 62%).

reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.98 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | TBDPS chloride | 1.98 mmol, 0.52 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 4.47 mmol, 297 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 4-(tert-butyl-diphenyl-silanyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 545 mg, 62% | C(C)(C)(C)OC(=O)N1CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H37NO3Si
